US04465765
Reacting ethyl 4,4-bis-(3-tert.-butyl-4-hydroxyphenyl)-valerate analogously with 4-amino-2,2,6,6-tetramethylpiperidine produces 4-[4,4-bis-(3-tert.-butyl-4-hydroxyphenyl)-valeramido]-2,2,6,6-tetramethylpiperidine having a melting point 133°.

reactant | ethyl 4,4-bis-(3-tert.-butyl-4-hydroxyphenyl)-valerate | C(C)(C)(C)C=1C=C(C=CC1O)C(CCC(=O)OCC)(C)C1=CC(=C(C=C1)O)C(C)(C)C | C27H38O4
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
product | 4-[4,4-bis-(3-tert.-butyl-4-hydroxyphenyl)-valeramido]-2,2,6,6-tetramethylpiperidine | C(C)(C)(C)C=1C=C(C=CC1O)C(CCC(=O)NC1CC(NC(C1)(C)C)(C)C)(C)C1=CC(=C(C=C1)O)C(C)(C)C | C34H52N2O3
